US04367238
A mixture of ethyl 2-cyano-2-[2-methoxy-3-(2-chlorophenoxy)phenyl]valerate (7 g) and potassium hydroxide (5 g) in ethanol (80 ml) and water (40 ml) was treated in a similar manner to that of Example 14-(7) to give oily 2-[2-methoxy-3-(2-chlorophenoxy)phenyl]valeric acid (3.8 g).

reactant | ethyl 2-cyano-2-[2-methoxy-3-(2-chlorophenoxy)phenyl]valerate | 7 g | C(#N)C(C(=O)OCC)(CCC)C1=C(C(=CC=C1)OC1=C(C=CC=C1)Cl)OC | C21H22ClNO4
reactant | potassium hydroxide | 5 g | [OH-].[K+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
solvent | water | 40 ml | O | H2O
product | 2-[2-methoxy-3-(2-chlorophenoxy)phenyl]valeric acid | 3.8 g | COC1=C(C=CC=C1OC1=C(C=CC=C1)Cl)C(C(=O)O)CCC | C18H19ClO4
